US05618835
t-Butyllithium (11.9 mL, 20.3 mmol, 1.7M in pentane) is added dropwise to a solution of 5-bromo-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan (3.60 g, 12.7 mmol) in 50 mL of anhydrous THF at -78° C.; the resulting reaction mixture is stirred at -78° C. for 15 min and N,N-dimethylformamide (1.0 mL, 13.0 mmol) is introduced. The reaction mixture is kept at -78° C. for 0.5 h, quenched with water, warmed to room temperature, and extracted with ether. The extract is washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (10%→20% ether-hexane) gives 0.83 g (28%) of 7-tert-butyl-2,3-dihydro-3,3-dimethyl-5-formylbenzo[b]furan as a yellowish oil.

reactant | t-Butyllithium | 20.3 mmol, 1.7M, 11.9 mL | C(C)(C)(C)[Li]
reactant | 5-bromo-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan | 12.7 mmol, 3.60 g | BrC1=CC2=C(OCC2(C)C)C(=C1)C(C)(C)C | C14H19BrO
reactant | N,N-dimethylformamide | 13.0 mmol, 1.0 mL | CN(C=O)C | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-tert-butyl-2,3-dihydro-3,3-dimethyl-5-formylbenzo[b]furan | 0.83 g, 28% | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)C=O | C15H20O2
